US07462600B2
Preparation 20: 2-methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole
4-Nitro-benzoic acid hydrazide (1.0 g, 5.6 mmol) was heated to reflux in trimethyl orthoacetate for 4 days. After cooling to RT, the mixture was triturated with hexanes and the title compound collected by filtration (0.93 g). MS (ESI+) for m/z 206 (M+H)+.

reactant | 4-Nitro-benzoic acid hydrazide | 5.6 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C(=O)NN)C=C1 | C7H7N3O3
reactant | trimethyl orthoacetate | C(C)(OC)(OC)OC | C5H12O3
product | 2-methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole | CC=1OC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O3
